US05536714
N-t-Butyl-3-formylandrosta-3,5-diene-17β-carboxamide
2 ml of a 1M solution of diisobutyl aluminum hydride in toluene were added at 0° C. to 10 ml of a dry solution of toluene containing 380 mg of N-t-butyl-3-cyanoandrosta-3,5-diene-17β-carboxamide (prepared as described in Preparation 2). The reaction mixture was then stirred at 0° C. for 30 minutes, after which 30 ml of an aqueous solution of 1.5 g of tartaric acid were added to the mixture. The reaction mixture was then stirred at room temperature for 2 hours, and then extracted with methylene chloride three times. The combined organic extracts were washed with water and with a saturated aqueous solution of sodium chloride, in that order. They were then dried over anhydrous magnesium sulfate, and concentrated by evaporation under reduced pressure. The resulting residue was subjected to column chromatography using 50 g of silica gel and using a gradient elution method, with mixtures of acetone and methylene chloride in ratios ranging from 1:99 to 4:96 by volume as the eluent, to give 325 mg of the title compound.

reactant | diisobutyl aluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | N-t-butyl-3-cyanoandrosta-3,5-diene-17β-carboxamide | C(C)(C)(C)NC(=O)[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CC=C3C=C(CC[C@]3(C)[C@H]1CC2)C#N | C25H36N2O
reactant | tartaric acid | 1.5 g | C(C(O)C(O)C(=O)O)(=O)O | C4H6O6
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 380 mg | C1(=CC=CC=C1)C | C7H8
product | N-t-Butyl-3-formylandrosta-3,5-diene-17β-carboxamide | 325 mg | C(C)(C)(C)NC(=O)[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CC=C3C=C(CC[C@]3(C)[C@H]1CC2)C=O | C25H37NO2
